US04486432
Preparation of 6-(3-fluoroanilino)-5,8-quinoxalinedione
Approximately one gram of 5,8-dihydroxyquinoxaline was dissolved in 100 ml. of 2B ethanol. To the solution were added about 5 g. of freshly prepared silver (I) oxide and about 3 g. of 3-fluoroaniline. The reaction was stirred overnight at room temperature and worked up in the same manner as described in Example 3. Crystallization from ethyl acetate gave about 500 mg. of the title compound.

reactant | 5,8-dihydroxyquinoxaline | one gram | OC1=C2N=CC=NC2=C(C=C1)O | C8H6N2O2
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
catalyst | silver (I) oxide | [Ag-]=O
solvent | ethanol | C(C)O | C2H6O
product | 6-(3-fluoroanilino)-5,8-quinoxalinedione | FC=1C=C(NC=2C(C=3N=CC=NC3C(C2)=O)=O)C=CC1 | C14H8FN3O2
